US07135588B2
The present invention provides a method of producing dimethyl phthalate from naphthalene based chemicals, particularly, phthalic anhydride, which is a coal tar by product, by treating phthalic anhydride with methanol, adding a catalyst, such as sulphuric acid, hydrochloric acid or mixture thereof and a promoter, such as, dimethyl sulphate. Refluxing the resultant mixture at a temperature in the range of 60 to 100 degree Celsius, for a time period in the range of 6 to 12 hours, in presence of benzene. Separating the distillate into two layers. Removing the aqueous layer and sending back the benzene layer to the reaction vessel. Recovering unreacted methanol by distillation. Neutralizing the residue with caustic soda followed by extraction with benzene. Distilling the extract under vacuum to obtain benzene, and continuing the distillation process at a temperature in the range of 145 to 146 degree Celsius under 10 mm of mercury to obtain dimethyl phthalate.

reactant | phthalic anhydride | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | sulphuric acid | S(O)(O)(=O)=O | H2O4S
reactant | hydrochloric acid | Cl | ClH
reactant | dimethyl sulphate | S(=O)(=O)(OC)OC | C2H6O4S
reactant | benzene | C1=CC=CC=C1 | C6H6
solvent | methanol | CO | CH4O
product | dimethyl phthalate | C(C=1C(C(=O)OC)=CC=CC1)(=O)OC | C10H10O4
